US05155225
8-methyl-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one
A sample of 4.6 g of 4-ethyl-4-hydroxy-1H-pyrano[3',4':6,7]-indolizino[1,2-b]quinolin-3,14(4H,12H)-dione [(20 S) camptothecin] was stirred with 46 ml of N,N-dimethylformamide. The suspension was heated at reflux, and the disappearance of starting material was monitored by HPLC (C18 reverse phase column, 20-25% acetonitrile:water mobile phase, perchlorate buffer at pH approximately 3.0). The reaction was monitored by UV detection at a wavelength of 228 nm. The only responses detected under these conditions were a peak for N,N-dimethylformamide near the solvent front, a peak for the starting material and a peak for the desired product with a retention time of approximately 3.2 relative to the starting material. The reaction was heated until consumption of the starting material was complete (approximately 8 days). After cooling to ambient temperature the solid product was collected by filtration, and washed with methanol. After drying under vacuum to a constant weight 3.48 g (87%) of product, m.p. 233°-234° C. was obtained.

reactant | 4-ethyl-4-hydroxy-1H-pyrano[3',4':6,7]-indolizino[1,2-b]quinolin-3,14(4H,12H)-dione | 4.6 g | C(C)C1(C(OCC=2C(N3CC=4C(=NC=5C=CC=CC5C4)C3=CC21)=O)=O)O | C20H16N2O4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | perchlorate | Cl(=O)(=O)(=O)[O-]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
product | 8-methyl-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)=O)=O | C19H16N2O2
